US04939170
EXAMPLE A5: 2,6-Dichloro-3,5-difluoro-4-nitro-phenol
20 g of 2,6-dichloro-3,5-difluorophenol are introduced into 70 ml of acetic acid, and 8 g of 98% strength nitric acid are added dropwise. The mixture is subsequently stirred for a further 2 hours at room temperature and taken up in 150 ml of dichloromethane, and the solution is washed twice with water. After removing the dichloromethane by distillation, 18 g of product remain. 94% purity according to GC analysis. EXAMPLE A6: 2-Chloro-3,5,6-trifluoro-4-nitrophenol

reactant | 2,6-dichloro-3,5-difluorophenol | 20 g | ClC1=C(C(=C(C=C1F)F)Cl)O | C6H2Cl2F2O
reactant | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2,6-Dichloro-3,5-difluoro-4-nitro-phenol | ClC1=C(C(=C(C(=C1F)[N+](=O)[O-])F)Cl)O | C6HCl2F2NO3
